US09403836B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-(bromo(4-(5-fluoropyridin-2-yl)phenyl)methyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one
A mixture of (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one (35 mg, 0.109 mmol), 2-(4-(dibromomethyl)phenyl)-5-fluoropyridine, and K2CO3 (15 mg, 0.109 mmol) in DMF (3 mL) is stirred at room temperature overnight. The mixture is filtered through a 0.45 μm microfilter, and the filtrate is purified by a semi preparative HPLC to give product as white powder. MS (ESI) m/z 585.9 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 0.109 mmol, 35 mg | CN1C=2N(C=3C(C1=O)=C(NN3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C17H18N6O
reactant | 2-(4-(dibromomethyl)phenyl)-5-fluoropyridine | BrC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)Br | C12H8Br2FN
reactant | K2CO3 | 0.109 mmol, 15 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-(bromo(4-(5-fluoropyridin-2-yl)phenyl)methyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | CN1C=2N(C=3C(C1=O)=C(N(N3)C(C3=CC=C(C=C3)C3=NC=C(C=C3)F)Br)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C29H25BrFN7O
